US06699995B1
Methyl 2-(4-(4-chorophenyl)-2-oxo-4-oxazolin-5-yl)propionate
4-(4-Chlorophenyl)-2-oxo-4-oxazoline (3.0 g) was dissolved in methanol (30 mL) and methyl acrylate (1.66 mL) and triethylamine (2.14 mL) were added. The obtained mixture was stirred with reflux for 6 h, and the solvent was concentrated under reduced pressure. Isopropanol (9 mL) and isopropyl ether (21 mL) were added, and the mixture was allowed to stand at room temperature overnight and was cooled to not higher than 5° C. and stirred for 1 h. The precipitated crystals were collected by filtration and washed with isopropyl ether to give the title compound (2.81 g; yield 65.0%).

reactant | 4-(4-Chlorophenyl)-2-oxo-4-oxazoline | 3.0 g | ClC1=CC=C(C=C1)C=1NC(OC1)=O | C9H6ClNO2
reactant | methyl acrylate | 1.66 mL | C(C=C)(=O)OC | C4H6O2
reactant | triethylamine | 2.14 mL | C(C)N(CC)CC | C6H15N
solvent | methanol | 30 mL | CO | CH4O
product | Methyl 2-(4-(4-chorophenyl)-2-oxo-4-oxazolin-5-yl)propionate | 2.81 g, yield 65.0% | ClC1=CC=C(C=C1)C=1NC(OC1C(C(=O)OC)C)=O | C13H12ClNO4
